US07148217B2
Step A: Preparation of 2.4-Dichloro-6-(4,5-dihydro-1H-imidazol-2-yl)benzenamine
To a solution of ethylene diamine (1.2 mL, 18 mmol) in ethyl ether (50 mL) at −20° C. was added n-butyl lithium (6.4 mL, 2.5 M in hexanes, 16 mmol). The mixture was stirred at 0° C. for 0.3 hour before the addition of 2,4-dichloro-6-trifluoromethyl aniline (0.92 g, 4.2 mmol). The mixture was stirred at 0° C. for an additional 1.5 hours, at which point water (0.36 mL, 20 mmol) was added and the solvent was removed under reduced pressure. Purification by flash column chromatography (silica gel, 1% to 10% methanol in dichloromethane) to give the title compound of Step A (0.35 g) as a yellow solid.

reactant | ethylene diamine | 18 mmol, 1.2 mL | C(CN)N | C2H8N2
reactant | n-butyl lithium | 16 mmol, 2.5 M, 6.4 mL | C(CCC)[Li]
reactant | 2,4-dichloro-6-trifluoromethyl aniline | 4.2 mmol, 0.92 g | ClC1=C(N)C(=CC(=C1)Cl)C(F)(F)F | C7H4Cl2F3N
reactant | water | 20 mmol, 0.36 mL | O | H2O
solvent | ethyl ether | 50 mL | C(C)OCC | C4H10O
product | 2.4-Dichloro-6-(4,5-dihydro-1H-imidazol-2-yl)benzenamine | 0.35 g | ClC1=C(C(=CC(=C1)Cl)C=1NCCN1)N | C9H9Cl2N3
